*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM21BB050SN1
* Property : Z@100MHz = 5[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM21BB050SN1 port1 port2
R1 port1 1 4.823
C2 1 2 1.464e-10
L1 port1 2 3.335e-9
R2 2 3 13.60
L2 2 3 3.778e-9
C1 port1 3 6.501e-13
R3 3 4 5.657e+4
L3 3 4 5.688e-10
R4 4 port2 4.000e-3
.ENDS BLM21BB050SN1
*----------------------------------------------------------------------
