* OPA607 - Rev. A
* Created by Sean Cashin; 2020-05-27
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2020 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* GAIN ERROR (Eg)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
******************************************************
.subckt OPA607 IN+ IN- OUT VCC VEE
******************************************************
.MODEL R_NOISE RES (T_ABS=0)
.MODEL R_NOISELESS RES (T_ABS=-273.15)
C_C1         MID CLAMP  970E-9   
C_C1A13         N940814 N940824  3.537U   
C_C1A14         N940834 N784595  3.537N   
C_C1A15         N1102884 N1102894  398N   
C_C1A16         N1102900 N1102910  159P   
C_C1A17         N1102916 N709248  5.3P   
C_C1A30         N1106156 N1106166  692N   
C_C1A31         N1106172 N1106182  106P   
C_C1A32         N1106188 N706294  5.3P   
C_C1A33         N1406506 N1406516  31.83E-9   
C_C1A34         N1406522 N1406532  8E-12   
C_C1A35         N1513174 N1513184  8E-12   
C_C33         N406634 0  1E-15   
C_C34         N317950 0  1   
C_C35         N406794 0  1E-15   
C_C39         N1252259 N1252249  159.2E-9   
C_C40         N1258891 N1258881  4.3E-12   
C_C41         N1268170 N1268207  6.3E-9   
C_C42         N1268427 N1268477  6.3E-9   
C_C46         N1351893 N1351883  1.592P   
C_C47         N1351983 MID  200P   
C_C48         N1352009 MID  500P   
C_C49         N1352039 MID  500P   
C_C50         N1352069 MID  500P   
C_C51         NET1 MID  500P   
C_C7         N31014 MID  1P   
C_C8         MID N35813  1E-15   
C_C9         MID N38096  1E-15   
C_C_CMN         MID ESDN  5.5P   
C_C_CMN1         ESDN ESDP  11.5P   
C_C_CMP         ESDP MID  5.5P   
C_C_VIMON         MID VIMON  1E-12   
C_C_VOUT_S         MID VOUT_S  1E-12   
E_E3         N112292 MID OUT MID 1
E_E6         MID 0 N317950 0 1
G_G100         N1268417 MID N1268170 MID -1
G_G103         N1351883 MID CL_CLAMP MID -8
G_G104         NET2 MID N1351893 MID -1
G_G105         N1352009 MID N1351983 MID -1
G_G106         N1352039 MID N1352009 MID -1
G_G107         N1352069 MID N1352039 MID -1
G_G108         NET1 MID N1352069 MID -1
G_G109         N1406522 MID N1406516 MID -10
G_G111         N1406506 MID N1407473 MID -100
G_G112         N1513174 MID N1406532 MID -10
G_G113         N06456 MID N1513184 MID -1.2E-6
G_G114         N1254860 MID N1268427 MID -1
G_G12         VSENSE MID CLAMP MID -1E-3
G_G15         CLAW_CLAMP MID VSENSE MID -1E-3
G_G16         CL_CLAMP MID CLAW_CLAMP MID -1E-3
G_G2         N10570 N10561 N784595 MID -1E-3
G_G36         VCC_B 0 VCC 0 -1
G_G37         VEE_B 0 VEE 0 -1
G_G6         N25816 N11984 N709248 N706294 -1E-3
G_G70         N940834 MID N940824 MID -2.222K
G_G76         N940814 MID ESDP MID -188.7U
G_G77         N1106172 MID N1106166 MID 667
G_G78         N1106188 MID N1106182 MID 33
G_G8         VCC_CLP MID N35813 MID -1E-3
G_G86         N1102884 MID VCC_B MID 0.001
G_G87         N1102900 MID N1102894 MID 1K
G_G88         N1102916 MID N1102910 MID 33
G_G89         N1106156 MID VEE_B MID 0.0039
G_G9         VEE_CLP MID N38096 MID -1E-3
G_G96         N1252249 MID NET1 N516723 -1000
G_G98         N1258881 MID N1252259 MID -1
G_G99         N1263527 MID N1258891 MID -270.3
I_I_B         N06456 MID DC 3e-12  
I_I_OS         ESDN MID DC 0.464e-12  
I_I_Q         VCC VEE DC 0.001  
L_L3         NET2 N1351983  30N  
R_R1         ESDP IN+ R_NOISELESS 10E-3
R_R10         ESDN N11991 R_NOISELESS 1E-3
R_R107         VCC_B 0 R_NOISELESS 1
R_R108         N317950 0 R_NOISELESS 1E12
R_R109         VEE_B 0 R_NOISELESS 1
R_R110         VCC_B N406634 R_NOISELESS 1E-3
R_R111         N406634 N317950 R_NOISELESS 1E6
R_R112         N317950 N406794 R_NOISELESS 1E6
R_R113         N406794 VEE_B R_NOISELESS 1E-3
R_R146         N940814 MID R_NOISELESS 1
R_R147         N940834 MID R_NOISELESS 1
R_R148         N1102916 MID R_NOISELESS 1
R_R162         ESDN ESDP R_NOISELESS 1G
R_R182         N1102884 MID R_NOISELESS 1
R_R183         N1102900 MID R_NOISELESS 1
R_R184         N1106156 MID R_NOISELESS 1
R_R185         N1106172 MID R_NOISELESS 1
R_R186         N1106188 MID R_NOISELESS 1
R_R1A14         N940814 N940824 R_NOISELESS 10E3
R_R1A15         N940834 N784595 R_NOISELESS 10E3
R_R1A16         N1102916 N709248 R_NOISELESS 10E3
R_R1A30         N1102884 N1102894 R_NOISELESS 10E3
R_R1A31         N1102900 N1102910 R_NOISELESS 10E3
R_R1A32         N1106156 N1106166 R_NOISELESS 10E3
R_R1A33         N1106172 N1106182 R_NOISELESS 10E3
R_R1A34         N1106188 N706294 R_NOISELESS 10E3
R_R1A35         N1406506 N1406516 R_NOISELESS 10E3
R_R1A36         N1406522 N1406532 R_NOISELESS 10E3
R_R1A37         N1513174 N1513184 R_NOISELESS 10E3
R_R2         ESDN IN- R_NOISELESS 10E-3
R_R208         N1252259 N1252249 R_NOISELESS 10E3
R_R209         MID N1252249 R_NOISELESS 1
R_R21         N11984 N25816 R_NOISELESS 1E3
R_R210         MID N1252259 R_NOISELESS 1E6
R_R211         MID N1254860 R_NOISELESS 1
R_R212         MID N516723 R_NOISELESS 50E3
R_R213         N516723 N1254860 R_NOISELESS 500E3
R_R214         N1258891 N1258881 R_NOISELESS 10E3
R_R215         MID N1258881 R_NOISELESS 1
R_R216         MID N1258891 R_NOISELESS 37.14
R_R218         MID N1263527 R_NOISELESS 1
R_R219         MID N1268207 R_NOISELESS 1
R_R220         N1268170 N1263527 R_NOISELESS 1.2
R_R221         N1268427 N1268417 R_NOISELESS 1.2
R_R222         MID N1268417 R_NOISELESS 1
R_R223         MID N1268477 R_NOISELESS 1
R_R229         N1351893 N1351883 R_NOISELESS 10E3
R_R230         MID NET2 R_NOISELESS 1
R_R231         MID N1351983 R_NOISELESS 5
R_R232         MID N1351883 R_NOISELESS 1
R_R233         MID N1351893 R_NOISELESS 10E3
R_R234         MID N1352009 R_NOISELESS 1
R_R235         MID N1352039 R_NOISELESS 1
R_R236         MID N1352069 R_NOISELESS 1
R_R237         MID NET1 R_NOISELESS 1
R_R239         N1406506 MID R_NOISELESS 1
R_R240         N1406522 MID R_NOISELESS 1
R_R241         N1407473 MID R_NOISE 1E3
R_R242         N1513174 MID R_NOISELESS 1
R_R25         MID N28602 R_NOISELESS 1E9
R_R26         N30136 MID R_NOISELESS 1E9
R_R27         MID N30913 R_NOISELESS 1
R_R28         N31014 N30913 R_NOISELESS 1E-3
R_R29         N35675 VCC_B R_NOISELESS 1E3
R_R2A14         N940824 MID R_NOISELESS 9.008
R_R2A15         N784595 MID R_NOISELESS 4.502
R_R2A16         N1102894 MID R_NOISELESS 4.45
R_R2A17         N1102910 MID R_NOISELESS 10
R_R2A18         N709248 MID R_NOISELESS 309.3
R_R2A31         N1106166 MID R_NOISELESS 1.15
R_R2A32         N1106182 MID R_NOISELESS 15
R_R2A33         N706294 MID R_NOISELESS 309
R_R2A34         N1406516 MID R_NOISELESS 50.25
R_R2A35         N1406532 MID R_NOISELESS 2500
R_R2A36         N1513184 MID R_NOISELESS 2500
R_R3         MID ESDP R_NOISELESS 1E13
R_R30         N35813 N35675 R_NOISELESS 1E-3
R_R31         VCC_CLP MID R_NOISELESS 1E3
R_R32         N38050 VEE_B R_NOISELESS 1E3
R_R33         N38096 N38050 R_NOISELESS 1E-3
R_R34         VEE_CLP MID R_NOISELESS 1E3
R_R4         ESDN MID R_NOISELESS 1E13
R_R60         MID AOLNET R_NOISELESS 158500
R_R62         MID VSENSE R_NOISELESS 1E3
R_R65         MID CLAW_CLAMP R_NOISELESS 1E3
R_R66         MID CL_CLAMP R_NOISELESS 1E3
R_R8         N10561 N10570 R_NOISELESS 1E3
R_R81         MID N110431 R_NOISELESS 1E9
R_R83         MID N112292 R_NOISELESS 1E9
R_R9         N10570 N11984 R_NOISELESS 1E-3
R_R_VIMON         VIMON N110431 R_NOISELESS 100
R_R_VOUT_S         VOUT_S N112292 R_NOISELESS 100
V_VCM_MAX         N30136 VCC_B -1.1
V_VCM_MIN         N28602 VEE_B -0
X_ESD_OUT         OUT VCC VEE ESD_OUT_OPA607 
X_E_N         ESDP N06456 VNSE_OPA607 
X_H3    OUT N516723 N110431 MID 08_OP_AMP_COMPLETE_H3_OPA607 
X_IQ_N         MID VIMON MID VEE IQ_SRC_OPA607 
X_IQ_P         VIMON MID VCC MID IQ_SRC_OPA607 
X_I_NP1         ESDN MID FEMT_OPA607 
X_S1    OUT VCC_CLP CLAMP MID 08_OP_AMP_COMPLETE_S1_OPA607 
X_S2    VEE_CLP OUT CLAMP MID 08_OP_AMP_COMPLETE_S2_OPA607 
X_U2         N31014 N11991 AOLNET MID AOL_1_OPA607 
X_U3         AOLNET MID CLAMP MID AOL_2_OPA607 
X_U5         VIMON MID N35675 VCC_B CLAWP_OPA607 
X_U6         VIMON MID VEE_B N38050 CLAWN_OPA607 
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP_OPA607 
X_VOS_DRIFT         N749288 N06456 VOS_DRIFT_OPA607 
X_VOS_VS_VCM         N10561 N749288 VCC VEE VOS_VS_VCM_OPA607 
.ENDS  OPA607
*
.SUBCKT 08_OP_AMP_COMPLETE_H3_OPA607 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS  08_OP_AMP_COMPLETE_H3_OPA607
*
.SUBCKT 08_OP_AMP_COMPLETE_S1_OPA607 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=2MEG RON=0.05 VOFF=-0.15 VON=0.02
.ENDS  08_OP_AMP_COMPLETE_S1_OPA607
*
.SUBCKT 08_OP_AMP_COMPLETE_S2_OPA607 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=2MEG RON=0.05 VOFF=-0.15 VON=0.02
.ENDS  08_OP_AMP_COMPLETE_S2_OPA607
*
.SUBCKT AOL_1_OPA607 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPA607
*
.SUBCKT AOL_2_OPA607 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 5.65
.PARAM IPOS = 7
.PARAM INEG = -7
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPA607
*
.SUBCKT CLAWN_OPA607 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 3.39E-6)
+(10, 1.37E-4)
+(20, 2.89E-4)
+(30, 4.65E-4)
+(40, 6.85E-4)
+(45, 8.27E-4)
+(50, 1.02E-3)
+(55, 2.80E-3)
.ENDS  CLAWN_OPA607
*
.SUBCKT CLAWP_OPA607 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 4.00E-6)
+(10, 1.68E-4)
+(20, 3.44E-4)
+(30, 5.49E-4)
+(40, 8.09E-4)
+(45, 9.82E-4)
+(50, 1.23E-3)
+(55, 2.80E-3)
.ENDS  CLAWP_OPA607
*
.SUBCKT ESD_OUT_OPA607 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
S1 VCC OUT OUT VCC ESD_SW
S2 OUT VEE VEE OUT ESD_SW
.ENDS  ESD_OUT_OPA607
*
.SUBCKT FEMT_OPA607 1 2
.PARAM FLWF=0.1
.PARAM NLFF=12.6
.PARAM NVRF=12.6
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DNVF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DNVF
D2 8 0 DNVF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT_OPA607
*
.SUBCKT IQ_SRC_OPA607 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPA607
*
.SUBCKT VCM_CLAMP_OPA607 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPA607
*
.SUBCKT VNSE_OPA607 1 2
.PARAM FLW=0.1
.PARAM NLF=400
.PARAM NVR=3.8
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPA607
*
.SUBCKT VOS_DRIFT_OPA607 VOS+ VOS-
.PARAM DC = 120E-6
.PARAM POL = 1
.PARAM DRIFT = 20E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPA607
*
.SUBCKT VOS_VS_VCM_OPA607 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0.35, 450E-6)
+(0.4, 435E-6)
+(0.55, 275E-6)
+(0.65, 150E-6)
+(0.75, 75E-6)
+(0.85, 25E-6)
+(1, 0)
V1 1 V- 0
.ENDS  VOS_VS_VCM_OPA607
*
